Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
lightheadedness/aflutter 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a very pleasant ___ with a history of prostate CA, 
esophageal CA who presented to PCP with several months of 
lightheadedness and shortness of breath and was found to have 
atypical atrial flutter and sinus node dysfunction. 

Mr. ___ reports that his cardiac history began in college in 
his mid ___ when he observed that he was having shortness 
of breath and palpitations. He saw a cardiologist Dr. ___ 
heard a murmur consistent with an ASD. He underwent a cardiac 
catheterization which demonstrated the presence of an ASD. The 
decision was made to defer surgery as he was largely 
asymptomatic. Since that time he has noted infrequent 
lightheadedness and shortness of breath that was relieved with 
physical exertion, but no history of syncope. He reports that in 
his ___ he was seen at ___ where he had a 
repeat cardiac catheterization for the same indication where the 
ASD was thought not to have significant flow so decision was 
made not to pursue closure. 

Since that time his health has been marked by issues regarding 
malignancy. First with a diagnosis of prostate cancer in ___ 
successfully treated with chemo/XRT but complicated by radiation 
proctitis. Second being a diagnosis of esophageal carcinoma in 
___ treated at ___ with chemoXRT with appearance of remission 
His course was complicated by pulmonary embolism, so he was 
started on anticoagulation with lovenox. He had significant 
weight loss without adjustment of his lovenox dosing and later 
in ___ was admitted to ___ with an RP bleed. Lovenox was 
stopped and a IVC filter was placed. His IVC filter has 
subsequently been removed and in the setting of remission from 
his esophageal CA. 

In the past several months, Mr. ___ has made more of an 
effort to focus on his health and has been running regularly. 
Over the past several months he has run triathlons (at a slow 
but consistent pace) without SOB. However at rest he has been 
having worsening issues with dizziness at rest, which he was 
concerned was a possible marker of malignancy though thus far 
there has been no evidence. 

However over the past few days he has noted SOB and dizziness no 
matter exertional status. On the day prior to admission he had a 
"slow jog" and became sob and almost passed out twice due to 
feeling of dizziness and lightheadedness.  This AM he woke up 
with similar symptoms so called his PCP and was advised to come 
in for evaluation. At his PCPs office he was hemodynamically 
stable but was found to be in atrial flutter with VR in the ___. 
He was sent to the ED for further evaluation. 

In the ED intial vitals were: 97.6 64 ___ 98% RA  
EKG: Sinus brady 59 1st degree AV block normal axis, no acute ST
CXR: no acute process
Labs notable for negative troponin, normal CBC and Chem7.
Patient was given: no medications.

On the floor patient reports that he feels well with resolution 
in his lightheadedness. At rest he reports mild conversational 
dyspnea that corresponds with bradycardic episodes. He reports 
that he feels better walking around the observation unit. 

REVIEW OF SYSTEMS: 
(+) per HPI, pulmonary embolism, RP bleed, dyspnea on exertion, 
palpitations, syncope or presyncope.  
On review of systems, denies any prior history of stroke, TIA, 
deep venous thrombosis, myalgias, joint pains, cough, 
hemoptysis, black stools or red stools. Denies recent fevers, 
chills or rigors. Denies exertional buttock or calf pain. All of 
the other review of systems were negative.  

Cardiac review of systems is notable for absence of chest pain, 
paroxysmal nocturnal dyspnea, orthopnea, ankle edema, syncope.

 
Past Medical History:
- Cancer of esophagus ___. s/p chemo XRT
- Cancer of prostate 2001vs/p radiation c/p radiation proctitis
- Pulmonary embolism ___, started on lovenox but stopped ___ RP 
bleed. 
- Colonic  polyps
- PVD (posterior vitreous detachment)
- Cataract, nuclear sclerotic senile 
- Atrial Septal Defect
- H/o Palpitations
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory.

 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
====================================
VS: 97.7 137/71 70 16 99RA 
WT: 242.3lbs
GENERAL: Well appearing. Mild conversational dyspnea. NAD
HEENT: PERRL, OP clear. 
NECK: Supple, JVP flat  
CARDIAC: Regular with pauses, normal S1, Do not appreciate split 
S2. No m/r/g
LUNGS: CTAB with good airmovement. Unlabored. No w/r/r
ABDOMEN: Soft, NT, ND, NABS
EXTREMITIES: WWP, venous varicosities. No clubbing, cyanosis, or 
edema.
SKIN: WWP no rashes. 
PULSES:  Distal pulses palpable and symmetric
.
DISCHARGE PHYSICAL EXAM:
=======================================
97.8 116/62 p70 R18 96%RA 
GENERAL: Well appearing. NAD. Ambulating without difficulty
HEENT: PERRL, OP clear. 
NECK: Supple, JVP flat  
CARDIAC: Regular. S1,s2 No m/r/g
LUNGS: CTAB with good airmovement. Unlabored. No w/r/r
ABDOMEN: Soft, NT, ND, NABS
EXTREMITIES: WWP, venous varicosities. No clubbing, cyanosis, or 
edema.
SKIN: WWP no rashes. 
PULSES:  Distal pulses palpable and symmetric

 
Pertinent Results:
ADMISSION LABS: 
=========================
___ 03:15PM BLOOD WBC-5.8 RBC-4.53* Hgb-14.5 Hct-42.7 
MCV-94 MCH-32.0 MCHC-34.0 RDW-13.2 RDWSD-45.7 Plt ___
___ 03:15PM BLOOD Neuts-71.8* Lymphs-15.4* Monos-10.9 
Eos-1.4 Baso-0.3 Im ___ AbsNeut-4.16 AbsLymp-0.89* 
AbsMono-0.63 AbsEos-0.08 AbsBaso-0.02
___ 03:15PM BLOOD Glucose-108* UreaN-17 Creat-1.0 Na-142 
K-3.9 Cl-102 HCO3-29 AnGap-15
Trop-T: <0.01  
 
MICRO:  reviewed, see below

STUDIES: 
================
+ EKG: Atrial flutter with VR of ~50bpm. Pwaves positive V1, 
inferior leads. NA/NI. No ST changes. 
+ EKG: NSR @ ~60bpm but with frequent PACS and compensatory 
pause. NA/NI, no ST changes.

+ TELE: sinus brady with PACs with no ventricular response and 
sinus pause in response to PAC. 

+ CXR: There is no focal consolidation, pleural effusion, 
pneumothorax, or pulmonary edema. The cardiomediastinal 
silhouette is within normal limits.  Mild multilevel 
degenerative changes of visualized thoracic spine are noted. 
IMPRESSION:  No acute cardiopulmonary process. 

+ TTE (___): 
1. The left ventricle size is normal. There is moderate 
concentric left ventricular hypertrophy. There are no regional 
wall motion abnormalities. Overall left ventricular systolic 
function is normal, with an estimated LVEF of 55-60%.
2. The left atrium is moderately dilated.
3. There is no evidence of shunt by color Doppler. Note that the 
subcostal images were technically limited, so the presence of a 
very small ASD cannot be excluded by this study. However, there 
is no evidence of hemodynamically significant shunt.
4. Compared with the findings of the prior report of ___, 
concentric LVH is now present.

 
Brief Hospital Course:
___ with a history of prostate CA, esophageal CA who presented 
to PCP with several months of lightheadedness and shortness of 
breath and was found to have atypical atrial flutter and  
bradycardia.

# Bradyarryhthmias: Episodes of blocked PACs, potentially 
concerning for sinus node discussion, as well as periods of 
Wenkebach and normal sinus rhythm. Patient was evaluated by EP. 
After discussion with providers and patient preferences, decided 
to discharge patient with Event Monitor to determine correlation 
of his symptoms with either his bradyarrthmias or tachyarrythmia 
(below) before determining need for pacemaker.

# Atrial flutter: Appears to be atypical/left atrial as upright 
in V1 with slow ventricular response. CHADS2 of 1 (Age). 
Previously anticoagulated due to PE during esophageal cancer, 
discontinued due to prior RP bleed. Deferred beta blocker for 
now as rates controlled or slow here.. 
  
# Atrial Septal Defect: Longstanding, unrepaired. Appears 
complicated by issues above. No evidence of RV overload or right 
sided failure on presentation. Last TTE in ___ without 
significant issues.  

CHRONIC ISSUES:  
===============  
# Cancer of esophagus s/p Chemoradiation at ___. Currently 
thought to be remission.  
# Cancer of prostate s/p radiation c/p radiation proctitis.  
# Pulmonary embolism: Previously on lovenox but this was stopped 
given RP bleed. CBC normal on admission  

TRANSITIONAL ISSUES:
==================== 
- F/U Event Monitor - Results to be sent to Dr. ___
- f/U final read of ECHO. Moderate LVH with preserved EF on 
prelim read.
- Consider stress test
- Consider aspirin for AFL (hx of RP bleed on anticoagulation in 
past)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Viagra (sildenafil) 100 mg oral QHS:PRN sexual intercourse 
2. Omeprazole 20 mg PO DAILY 
3. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1. Multivitamins 1 TAB PO DAILY 
2. Omeprazole 20 mg PO DAILY 
3. Viagra (sildenafil) 100 mg oral QHS:PRN sexual intercourse 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY: Atrial flutter
SECONDARY: Bradycardia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted with lightheadedness and shortness of breath. 
You were found to have abnormal heart rhythms. You were seen by 
our electrophysiologist who evaluated your heart tracings and 
recommended going home with an Event Monitor to determine which 
of the abnormal heart rhythms may be causing your symptoms. You 
will follow up in clinic with an electrophysiology specialist 
(Dr. ___ for the results.

We wish you the best, 

Your ___ team
 
Followup Instructions:
___